US03948925
84 g of ethyl thiocarbamate were added to 500 ml of dioxane and then 168 g of ethyl α-bromoacetylacetate was added thereto dropwise. The mixture was refluxed for 4 hours and the solvent was then evaporated under reduced pressure. The solid residue was crystallized from benzene to obtain 72g of 5-ethoxycarbonyl-4-methyl-4-thiazoline-2-one in the form of white crystals melting at 172°C.

reactant | ethyl thiocarbamate | 84 g | C(N)(OCC)=S | C3H7NOS
reactant | ethyl α-bromoacetylacetate | 168 g | BrCC(=O)CC(=O)OCC | C6H9BrO3
solvent | dioxane | 500 ml | O1CCOCC1 | C4H8O2
product | 5-ethoxycarbonyl-4-methyl-4-thiazoline-2-one | C(C)OC(=O)C1=C(NC(S1)=O)C | C7H9NO3S
